US04361563
(b) 5-Methyl-6-[3-nitro-4-(4-methoxy-benzoylamino)phenyl]-3-oxo-4,5-dihydro-2H-pyridazine
20 ml of 80% hydrazine hydrate were added dropwise to 150 ml of glacial acetic acid while stirring and ice cooling. After cooling, 10.7 gm of 3-[3-nitro-4-(4-methoxybenzoylamino)-benzoyl]-butyric acid methyl ester were added and the mixture was refluxed for 40 minutes. After cooling, 250 ml of ice water were added, and the precipitate formed was suction filtered and washed with ice water.

reactant | hydrazine hydrate | 20 ml | O.NN
reactant | 3-[3-nitro-4-(4-methoxybenzoylamino)-benzoyl]-butyric acid methyl ester | 10.7 gm | COC(CC(C)C(C1=CC(=C(C=C1)NC(C1=CC=C(C=C1)OC)=O)[N+](=O)[O-])=O)=O | C20H20N2O7
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 5-Methyl-6-[3-nitro-4-(4-methoxy-benzoylamino)phenyl]-3-oxo-4,5-dihydro-2H-pyridazine | CC1CC(NN=C1C1=CC(=C(C=C1)NC(C1=CC=C(C=C1)OC)=O)[N+](=O)[O-])=O | C19H18N4O5
